US08865698B2
To a methanol (1 mL) solution of (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxy-3-methylazetidine-1-carboxamide (10.2 mg, 0.0238 mmol) was added HCl as a solution is dioxane (30 μL). After 30 minutes, the reaction was concentrated to provide (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxy-3-methylazetidine-1-carboxamide hydrochloride (8.3 mg, 0.0179 mmol, 75.0% yield) as a yellow solid.

reactant | methanol | 1 mL | CO | CH4O
reactant | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxy-3-methylazetidine-1-carboxamide | 0.0238 mmol, 10.2 mg | FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)(C)O | C21H22F2N6O2
reactant | HCl | Cl | ClH
solvent | dioxane | 30 μL | O1CCOCC1 | C4H8O2
product | (R)—N-(5-(2-(2,5-difluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)-3-hydroxy-3-methylazetidine-1-carboxamide hydrochloride | 0.0179 mmol, 8.3 mg, 75.0% yield | Cl.FC1=C(C=C(C=C1)F)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2NC(=O)N2CC(C2)(C)O | InChI=1S/C21H22F2N6O2.ClH/c1-21(31)11-27(12-21)20(30)25-16-10-24-29-8-6-18(26-19(16)29)28-7-2-3-17(28)14-9-13(22)4-5-15(14)23;/h4-6,8-10,17,31H,2-3,7,11-12H2,1H3,(H,25,30);1H/t17-;/m1./s1
